US05700930
[4R-[3(3S*,5S*),4Alpha,5beta(R*)]]-3-[[5-[(dimethylamino)carbonyl]-1-[[(4-nitrophenyl)methoxy]carbonyl]-3-pyrrolidinyl]thio]-6-[1-[[(1,1-dimethylethyl)dimethylsilyl]oxy]ethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (4-nitrophenyl)methyl ester
Titanium tetrachloride (3.12 ml of a 1.0M solution in dichloromethane) is added to 1.5 ml of dry tetrahydrofuran under argon at .room temperature. To this mixture is added [2S-[2Alpha,4alpha[R*(or S*)-[1S*,1[2R*,3R*, -3(S*)]]]]]-2-[(dimethylamino)carbonyl]-4-[[1-[1-[3-[1-[[(1,1-di-methylethyl)dimethylsilyl]oxy]ethyl]-4-oxo-2-azetidinyl]ethyl]-3-[(4-nitrophenyl)methoxy]-2,3-dioxopropyl]thio]-1-pyrrolidinecarboxylic acid (4-nitrophenyl)methyl ester (0.392 g) in 2.5 ml of tetrahydrofuran. After 30 minutes the reaction mixture is treated with ice-cold saturated sodium bicarbonate solution and ethyl acetate. The aqueous layer is extracted with ethyl acetate. The combined organic layer is washed with three portions of brine, dried over anhydrous sodium sulfate and by anhydrous magnesium sulfate. Filtration and concentration affords the crude carbapenem which is purified via silica gel chromatography (80% ethyl acetate hexanes). The title compound is obtained as a pale yellow oil (0.295 g) 77%.

reactant | 2-[(dimethylamino)carbonyl]-4-[[1-[1-[3-[1-[[(1,1-di-methylethyl)dimethylsilyl]oxy]ethyl]-4-oxo-2-azetidinyl]ethyl]-3-[(4-nitrophenyl)methoxy]-2,3-dioxopropyl]thio]-1-pyrrolidinecarboxylic acid (4-nitrophenyl)methyl ester | 0.392 g | [N+](=O)([O-])C1=CC=C(C=C1)COC(=O)N1C(CC(C1)SC(C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)C(C)C1NC(C1C(C)O[Si](C)(C)C(C)(C)C)=O)C(=O)N(C)C | C38H51N5O12SSi
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
catalyst | Titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 3-[[5-[(dimethylamino)carbonyl]-1-[[(4-nitrophenyl)methoxy]carbonyl]-3-pyrrolidinyl]thio]-6-[1-[[(1,1-dimethylethyl)dimethylsilyl]oxy]ethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (4-nitrophenyl)methyl ester | [N+](=O)([O-])C1=CC=C(C=C1)COC(=O)C=1N2C(C(C2C(C1SC1CN(C(C1)C(=O)N(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)C(C)O[Si](C)(C)C(C)(C)C)=O | C38H49N5O11SSi
